US06211215B1
A solution of 4-(3-benzyloxyphenyl)butyric acid (22.0 g) in tetrahydrofuran (150 ml) was added dropwise to a suspension of lithium aluminum hydride (6.18 g) in tetrahydrofuran (150 ml) at 0° C. and then stirred for one hour at room temperature. The reaction mixture was quenched with H2O, acidified with 1N-hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer was washed with 1N-hydrochloric acid, saturated aqueous sodium bicarbonate and water, dried (MgSO4), and concentrated under reduced pressure to give 4-(3-benzyloxyphenyl)butanol (20.5 g, 99%). Oily substance.

reactant | 4-(3-benzyloxyphenyl)butyric acid | 22.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCC(=O)O | C17H18O3
reactant | lithium aluminum hydride | 6.18 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-(3-benzyloxyphenyl)butanol | 20.5 g, 99% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCCO | C17H20O2
